* Z:\mnt\design.r\spice\examples\1777.asc
XU1 MP_01 MP_02 N001 OUT N003 N002 0 MP_03 MP_04 IN MP_05 MP_06 N006 N005 LT1777
V1 IN 0 24
L1 N003 OUT 220µ
L2 N002 N003 1µ
D1 0 N003 1N5819
C1 N004 0 2200p
C2 N005 0 100p
C3 OUT 0 100µ Rser=0.1
R1 N005 N004 12K
R2 OUT N006 36.5K
R3 N006 0 12.1K
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT1777.sub
.backanno
.end
