* Z:\mnt\design.r\spice\examples\1812.asc
V1 +V 0 5
V2 -V 0 -5
XU1 0 NC_01 +V -V N002 NC_02 LT1812
C1 N002 N004 47p
R3 N004 N001 665
R4 N001 IN 232
R1 N002 N001 232
C2 N001 0 220p
XU2 0 N005 +V -V OUT NC_03 LT1812
C3 OUT N005 22p
R2 N005 N003 665
R5 N003 N002 274
R6 OUT N003 274
C4 N003 0 470p
V3 IN 0 AC 1
.ac oct 10 100K 100Meg
* 4MHz, 4th Order Butterworth Filter
.lib LTC.lib
.backanno
.end
