* Z:\mnt\design.r\spice\examples\1813.asc
V1 +V 0 5
V2 -V 0 -5
R1 OUT N001 {R1}
R2 N001 IN {Rg}
XU1 0 N001 +V -V N002 LT1813
R3 N004 N003 {R}
R4 N003 N002 {R}
XU2 0 N003 +V -V N004 LT1813
R5 N005 N004 {Rf}
XU3 0 N005 +V -V OUT LT1813
C1 OUT N005 {C}
R6 N002 N001 {Rq}
R7 N007 OUT {Rf}
XU4 0 N007 +V -V N006 LT1813
C2 N006 N007 {C}
R8 N003 N006 {R}
V3 IN 0 AC 1
.ac oct 100 1K 10Meg
.param R=499 R1=499 Rf=475 Rq=49.9 Rg=499 C=.003u
* Bandpass Filter with Independently Settable Gain, Q and Center Frequency
.lib LTC.lib
.backanno
.end
