* Z:\mnt\design.r\spice\examples\1818.asc
V1 +V 0 5
V2 -V 0 -5
R1 N003 N002 432
R2 N002 0 200
V3 IN 0 AC 1
XU1 IN N002 N003 +V -V LT1818
R3 OUT N001 432
R4 N001 0 200
XU2 N003 N001 OUT +V -V LT1818
.ac oct 10 100K 500Meg
* 80MHz, 20dB Gain Block
.lib LTC2.LIB
.backanno
.end
