* Z:\mnt\design.r\spice\examples\1841.asc
V1 +V 0 5
V2 N001 0 PULSE(0 3.3 0 .5m .5m 0 1m)
R1 +V N002 10K
XU1 N003 N001 +V 0 N002 LTC1841
V3 N003 0 1
.tran 3m
.lib LTC1.lib
.backanno
.end
