* Z:\mnt\design.r\spice\examples\1873.asc
XU1 IN N001 N007 N003 N005 N009 IN N023 N013 0 N011 OUT1 N017 N019 N021 N022 N020 IN N016 N014 N024 N018 0 N006 N004 N008 N002 N010 LTC1873
M§Q1 IN N004 N006 N006 Si4410DY
M§Q2 N006 N008 0 0 Si4410DY
R1 0 N010 47K
D1 IN N002 1N5818
C1 N002 N006 1µ
C2 N023 0 .001µ
C3 N024 0 .001µ
C4 N014 N016 56p
C5 N015 N014 330p
R2 N016 N015 68K
L1 N006 OUT2 1µ
R3 OUT2 N016 10K
R4 N016 0 4.75K
M§Q3 IN N003 N005 N005 Si4410DY
M§Q4 N005 N007 0 0 Si4410DY
R5 0 N009 47K
C6 N001 N005 1µ
C7 N013 N011 39p
C8 N012 N013 220p
R6 N011 N012 56K
L2 N005 OUT1 1µ
V1 IN 0 5
D2 IN N001 1N5818
C9 OUT1 0 180µ x2 Rser=.1
C10 OUT2 0 180µ x2 Rser=.1
Rload1 OUT1 0 5
Rload2 OUT2 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 600u startup
.lib LTC1873.sub
.backanno
.end
