* Z:\mnt\design.r\spice\examples\1874.asc
L1 N001 N004 4.7µ
V1 IN 0 3.3
C1 N003 N002 500p
R1 IN N001 0.03
R2 N005 0 80.5K
R3 OUT N005 442K
R4 N002 0 15K
D1 N004 OUT MBRS340
XU1 N003 0 N005 N001 IN N006 LTC1872
M§Q1 N004 N006 0 0 FDS6680A
C3 OUT 0 47µ Rser=10m
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 500u startup
.lib LTC1872.sub
.backanno
.end
