* Z:\mnt\design.r\spice\examples\1884.asc
V1 +V 0 5
V2 -V 0 -5
XU1 N009 N007 +V -V N008 LT1884
XU2 N006 N003 +V -V OUT LT1884
XU3 N005 SHIELD +V -V SHIELD LT1884
XU4 N001 N004 +V -V N002 LT1884
R1 OUT N003 10K
R2 0 N006 10K
R3 N003 N002 10K
R4 N006 N008 10K
R5 N002 N004 10K
R6 N004 N005 100
R7 N005 N007 100
R8 N007 N008 10K
C1 N009 0 22p
R9 N009 IN+ 1Meg
C2 N001 0 22p
R10 N001 IN- 1Meg
V3 IN- IN+ SINE(0 10m 100)
V4 IN+ 0 SINE(0 1 10)
* Input Fault Protected Instrumentation Amplifier
.tran .3
.lib LTC.lib
.backanno
.end
