* Z:\mnt\design.r\spice\examples\1886.asc
V1 +V 0 12
R1 N010 N009 909
R2 N009 N006 100
XU1 N012 N009 +V 0 N010 LT1886
R3 N003 N005 909
R4 N005 N006 100
XU2 N002 N005 +V 0 N003 LT1886
C1 N006 0 1µ
R5 N004 N003 12.4
R6 N011 N010 12.4
Rload N004 N011 100
R7 N002 N007 20K
R8 N007 0 10K
R9 N007 N012 20K
R10 +V N007 10K
C2 N002 N001 .1µ
C3 N012 N008 .1µ
V2 N001 N008 SINE(0 100m 1Meg)
C4 N007 0 1µ
* Single 12V Supply ADSL Model Line Driver
.tran 30u
.lib LTC.lib
.backanno
.end
