* Z:\mnt\design.r\spice\examples\1912.asc
L1 N004 OUT 6.8µ Rpar=2K
D1 0 N004 MBRS340
C1 OUT 0 47µ
V1 IN 0 15
R1 OUT N007 316K
R2 N007 0 100K
C2 N004 N006 .47µ
C3 N002 0 470p
R3 N003 N002 20K
R4 N005 0 68.1K
R6 IN N001 500K
C4 N001 0 .01µ
Rload OUT 0 1.65
XU1 OUT N006 N004 IN N001 MP_01 MP_02 N007 N003 N005 0 LT1912
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT1912.sub
.backanno
.end
