* Z:\mnt\design.r\spice\examples\1913.asc
L1 N004 OUT 4.7µ Rpar=2K
D1 0 N004 MBRS340
C1 OUT 0 47µ
V1 IN 0 30
R1 OUT N008 536K
R2 N008 0 100K
C2 N004 N006 .47µ
C3 N002 0 680p
R3 N003 N002 15K
R4 N005 0 63.4K
R5 OUT N007 100K
R6 IN N001 500K
C4 N001 0 .01µ
Rload OUT 0 1.43
XU1 OUT N006 N004 IN N001 MP_01 N007 N008 N003 N005 0 LT1913
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT1913.sub
.backanno
.end
