* Z:\mnt\design.r\spice\examples\1920.asc
V1 +V 0 5
V3 0 N003 SINE(0 10m 1K)
XU1 N001 N003 0 -V 0 OUT +V N002 LT1920
R3 N002 N001 1K
V2 -V 0 -5
.tran 3m
.lib LTC.lib
.backanno
.end
