* Z:\mnt\design.r\spice\examples\1932.asc
R1 N003 0 1.5K
L1 IN N001 6µ
V1 IN 0 2
D5 N001 N002 MBR0540
C1 N002 0 1µ
XU1 N001 0 N004 N003 IN IN LT1932
D1 N002 N004 NSPW500BS N=4
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT1932.sub
.backanno
.end
