* Z:\mnt\design.r\spice\examples\1938.asc
L1 N004 OUT 4.7µ Rpar=2K
D1 0 N004 1N5817
C1 OUT 0 22µ
V1 IN 0 15
R1 OUT N008 324K
R2 N008 0 200K
C2 N004 N006 .47µ
C3 N002 0 680p
R3 N003 N002 16.2K
R4 N005 0 60.4K
R5 OUT N007 100K
R6 IN N001 500K
C4 N001 0 .01µ
Rload OUT 0 1.5
XU1 OUT N006 N004 IN N001 N007 OUT N008 N003 N005 0 LT3684
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 750u startup
.lib LT3684.sub
.backanno
.end
