* Z:\mnt\design.r\spice\examples\1940.asc
V1 IN 0 5
C5 N012 0 100p
L2 N004 OUT1 5µ
R3 OUT1 N006 17.4K
R4 0 N006 10K
D3 0 N004 MBRS130L
C8 OUT1 0 2.2µ
Rload1 OUT1 0 2.35
C9 N008 0 2.2n
R5 N010 OUT1 10K
C6 N011 0 100p
L3 N003 OUT2 5µ
R6 OUT2 N005 17.4K
R7 0 N005 10K
D5 0 N003 MBRS130L
C11 OUT2 0 2.2µ
Rload2 OUT2 0 2.35
C12 N007 0 2.2n
R8 N009 OUT2 10K
XU1 N002 MP_01 N004 IN MP_02 N003 0 N001 N005 N007 N009 N011 N012 N010 N008 N006 LT1940
C1 N001 N003 .1µ
C2 N002 N004 .1µ
D1 OUT1 N002 1N4148
D2 OUT2 N001 1N4148
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 160u startup
.lib LT1940.sub
.backanno
.end
