* Z:\mnt\design.r\spice\examples\1941.asc
V1 IN 0 12
C5 N014 0 .00047µ
C7 N008 N010 .1µ
R3 OUT1 N012 10.7K
R4 0 N012 2.49K
D3 0 N010 MBRS340
D4 OUT1 N008 1N914
C8 OUT1 0 22µ
Rload1 OUT1 0 2.35
C9 N017 N018 6800p
R5 IN N001 10K
C6 N011 0 .00047µ
C10 N003 N007 .1µ
R6 OUT2 N009 6.19K
R7 0 N009 3.3K
D5 0 N007 MBRS130L
D6 OUT2 N003 1N914
C11 OUT2 0 22µ
Rload2 OUT2 0 2.35
R8 N004 IN 10K
XU1 IN MP_01 N010 MP_02 N008 N001 N017 N012 N004 N020 N009 N014 N011 N022 OUT1 N005 N002 N023 N015 N016 N006 MP_03 N007 N003 MP_04 MP_05 N013 OUT1 0 LT1941
R1 N006 IN 10K
R2 IN N002 10K
R9 N005 IN 10K
R10 0 N018 4.7K
R11 0 N021 4.7K
C1 N020 N021 6800p
R12 0 N024 4.7K
C2 N023 N024 680p
C3 N022 0 .00047µ
C12 N013 N019 1µ Rser=.1
D1 N019 0 1N5818
C13 OUT3 0 10µ Rser=100m
Rload3 OUT3 0 35
L3 IN N013 10µ
L4 OUT3 N019 10µ
L2 N007 OUT2 3µ
L1 N010 OUT1 3µ
R13 N015 OUT3 133K
R14 N016 N015 13.7K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 600u startup
K1 L3 L4 1
.lib LT1941.sub
.backanno
.end
