* Z:\mnt\design.r\spice\examples\1943.asc
V1 N002 0 12
L1 N002 N005 33µ Rpar=25K
L2 N002 N003 10µ
C2 N003 N004 1µ
D1 N004 AVDD 1N5818
L3 N004 0 10µ
R1 AVDD N008 88.7K
C3 AVDD 0 10µ
R2 N008 0 10K
R3 AVDD 0 24
C4 N010 0 150p
C5 N011 0 150p
C6 N013 0 150p
C7 N001 N007 .47µ
D2 N001 0 MBR0520L
D3 OFF N001 MBR0520L
R4 N006 N009 10K
R5 OFF N006 44.2K
C8 N006 N009 10p
C9 OFF 0 2.2µ
R6 OFF 0 100
L4 Vlogic N007 10µ
D4 Vlogic N014 CMDSH2-3
C10 N014 N015 .22µ
L5 N015 Vlogic 4.7µ
D5 0 N015 B520C
R7 N017 0 10K
R8 Vlogic N017 16.2K
C11 Vlogic 0 22µ
R9 Vlogic 0 2
C12 N019 0 2200p Rser=18K Cpar=100p
C13 N021 0 2200p Rser=6.8K Cpar=100p
C14 N020 0 680p Rser=27K Cpar=100p
C15 N022 0 3000p Rser=5K Cpar=100p
R10 ON 0 1K
C16 ON 0 .47µ
R11 N016 N018 274K
R12 N018 0 10K
C17 N016 0 2.2µ
XU1 0 N019 N021 N017 N008 N018 N006 N009 N020 N022 0 N014 N015 MP_01 N002 MP_02 N011 N010 N007 MP_03 N005 Vlogic N012 N016 N013 ON N003 LT1943
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 1m startup
.lib LT1943.sub
.backanno
.end
