* Z:\mnt\design.r\spice\examples\1946.asc
XU1 N003 N002 IN 0 N001 IN N003 N004 LT1946
L1 IN N001 5.4µ Rser=.05
R1 OUT N002 28.7K
R2 N002 0 5.23K
C3 N004 0 .005µ
D1 N001 OUT MBRS340
C2 OUT 0 20µ Rser=50m
V1 IN 0 3.3
Rload OUT 0 20
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 750u startup
.lib LT1946.sub
.backanno
.end
