* Z:\mnt\design.r\spice\examples\1947.asc
L1 IN N003 3.3µ
L2 N002 IN 4.7µ
D1 N003 +8 1N5819
R1 +8 N004 53.6K
R2 N004 0 10K
C1 +8 0 3.3µ x2
C2 N008 0 10n
D2 N002 +24 1N5819
R3 N005 0 10K
R4 +24 N005 182K
C3 +24 0 .22µ
C4 N001 N003 .68µ
D3 N001 0 1N5819
D4 -8 N001 1N5819
C5 -8 0 .68µ
R5 N007 0 2.4K
V1 IN 0 5
XU1 N004 N005 N008 N003 0 IN N002 N006 +24 N007 LT1947
Rload2 -8 0 800
Rload3 +8 0 40
Rload1 +24 0 5K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 500u startup
.lib LT1947.sub
.backanno
.end
