* Z:\mnt\design.r\spice\examples\1967.asc
V1 +V 0 2.5
V2 -V 0 -2.5
C1 OUT 0 1µ
XU1 -V N004 N005 OUT 0 +V LTC1967
C2 N005 0 .1µ
XU2 IN N002 N003 +V -V LT6202
R1 N004 N003 1K
R2 N003 N002 100K
R4 N002 N001 100
C3 N001 0 1.5µ
I1 0 IN SINE(0 {Vrms/100*sqrt(2)} 10K)
R3 IN 0 100
.tran 150m
.param Vrms=100u
.lib LTC2.LIB
.lib LTC1966.lib
.backanno
.end
