* Z:\mnt\design.r\spice\examples\1970.asc
V1 -V 0 -15
V2 +V 0 +15
V3 IN 0 SINE(0 1 100)
XU1 -V -V N004 N004 N005 OUT +V N006 IN MP_01 MP_02 N001 N001 0 +V N003 N003 MP_03 +V LT1970
R1 OUT N004 1
R2 +V N002 3K
R3 OUT N006 10K
R4 N006 0 10K
D1 N002 N003 QTLP690C
V4 N001 0 {X}
Rload OUT 0 5
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran .1
.step param X list 0 1 2 3 4 5
.lib LTC1.lib
.backanno
.end
