* Z:\mnt\design.r\spice\examples\1981.asc
V1 N001 0 3.3
V2 N003 0 PULSE(0 3 0 100n 100n 2.5m 5m)
M§Q1 N001 N004 N005 N005 Si4838DY
R1 0 N005 10
XU1 N002 0 N003 N004 N001 LTC1981
R2 N001 N002 100K
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20m startup
.lib LTC1981.sub
.backanno
.end
