* Z:\mnt\design.r\spice\examples\1990.asc
XU1 0 N002 0 -V N003 OUT +V N001 LT1990
V3 N002 0 SINE(0 1 10K)
V1 +V 0 5
V2 -V 0 -5
.tran 1m
.lib LTC3.lib
.backanno
.end
