* Z:\mnt\design.r\spice\examples\1992.asc
V1 +V 0 2.7
V2 -V 0 0
V3 N001 N007 SINE(0 0.5 10K)
R1 N002 N001 30K
R2 N003 N002 30K
R3 N006 N007 30K
R4 N005 N006 30K
C1 N003 0 10p
C2 N005 0 10p
XU1 N002 N004 +V N003 N005 -V N004 N006 LTC1992
.tran 1m
.lib LTC4.LIB
.backanno
.end
