* Z:\mnt\design.r\spice\examples\1994.asc
V3 N001 0 SINE(0 .5 10K)
V1 +V 0 5
V2 -V 0 -5
XU1 N002 N004 +V N003 N006 -V +V N005 LT1994
R1 N003 N002 499
R2 N002 N001 499
R3 N006 N005 499
R4 N005 0 499
C1 N004 0 .1µ
.tran 1m
.lib LTC3.lib
.backanno
.end
