* Z:\mnt\design.r\spice\examples\2053.asc
V1 N001 0 SINE(0 1 10)
V2 +V 0 5
V3 -V 0 -5
V4 N005 0 0
XU1 -V N004 N002 -V N005 N003 N003 +V LTC2053
R1 N002 N001 1K
R2 N004 0 1K
R3 OUT N003 100K
C1 OUT 0 1µ
C2 N002 N004 1µ
.tran .5
.lib LTC4.lib
.backanno
.end
