* Z:\mnt\design.r\spice\examples\2057.asc
V1 +V 0 30
V2 -V 0 -30
V3 N004 0 SINE(0 39m 1K)
R1 N002 N001 11.5K
XU2 NC_01 N001 N003 -V N002 +V NC_02 LTC2057
XU1 N007 NC_03 NC_04 -VL 0 OUT +VL NC_05 NC_06 N002 LT1991
R3 N007 N006 11.5K
XU3 NC_07 N006 N008 -V N007 +V NC_08 LTC2057
V4 +VL 0 18
V5 -VL 0 -18
R2 N001 N006 232
E1 N003 N005 N004 0 .5
E2 N005 N008 N004 0 .5
Vcm N005 0 -28
.tran 3m
.lib LTC1.lib
.lib LTC6.lib
.backanno
.end
