* Z:\mnt\design.r\spice\examples\2875.asc
V1 N001 0 PWL(0 0 10u 5)
V4 TXD1 0 PULSE(5 0 101u 10n 10n 250n 500n 10)
R1 CANH CANL 60
R2 N003 0 1K
XU2 TXD2 COM N002 RXD2 N006 CANL CANH N004 LTC2875
R3 N004 COM 1K
C1 CANH CANL 100p
V2 TXD2 COM PULSE(5 0 108u 10n 10n 250n 500n 10)
V3 COM 0 PWL(0 0 5u 36)
V5 N002 COM PWL(0 0 10u 5)
XU1 TXD1 0 N001 RXD1 N005 CANL CANH N003 LTC2875
.tran 0 120u 100u
.lib LTC6.lib
.backanno
.end
