* Z:\mnt\design.r\spice\examples\2924.asc
XU1 N012 N014 N016 N018 N011 N013 N015 N017 N020 N022 IN N023 0 N021 N019 N010 LTC2924
C1 OUT4 0 10µ
R1 OUT4 0 16
C2 N021 0 150n
C3 N023 0 150n
R2 N019 0 49.9K
R3 IN N020 10K
V1 IN 0 PWL(0 0 20u 5 140m 5 144m 0 192m 5)
V3 N005 0 3.3
V4 N001 0 1
R4 IN N022 10K
R15 IN N010 52.3K
R19 0 N010 11.8K
R16 OUT1 N012 52.3K
R17 0 N012 11.8K
R18 OUT2 N014 45.3K
R20 0 N014 7.68K
R21 OUT3 N016 6.04K
R22 0 N016 1.69K
R5 OUT4 N018 1.62K
R6 0 N018 3.09K
C4 OUT3 0 10µ
R7 OUT3 0 8
C5 OUT2 0 10µ
R8 OUT2 0 8
C6 OUT1 0 10µ
R9 OUT1 0 8
V2 N007 0 5
R10 OUT4 N003 0.01
R11 OUT3 N006 0.01
R12 OUT2 N008 0.01
R13 OUT1 N009 0.01
S2 N002 N003 N004 0 Switch
V6 N004 0 PULSE(1 0 360m 1u 1u 1200m 1400m)
M1 IN N011 N009 N009 AO6408
M2 N007 N013 N008 N008 AO6408
M3 N005 N015 N006 N006 AO6408
M4 N001 N017 N002 N002 AO6408
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 500ms  startup
.model Switch SW(Ron=0.01 Roff=100 Vt=0.5 Vh=-0.4)
.lib LTC2924.sub
.backanno
.end
