* Z:\mnt\design.r\spice\examples\2926.asc
M1 N001 N002 Slave1 Slave1 IRF7413ZPbF
V1 N001 0 1.8
R1 N002 N007 10
M2 N003 N004 Slave2 Slave2 IRF7413ZPbF
R2 N004 N006 10
C1 Slave1 0 .1µ
C2 Slave2 0 .1µ
R3 Slave1 0 100
R4 Slave2 0 100
V2 N003 0 3.3
V3 N017 0 PULSE(0 3.3 7m 100n 100n 100m 200m)
R5 Slave1 N010 15K
R6 N010 0 9.53K
R7 Slave2 N013 15K
R8 N013 0 4.02K
R9 N008 N012 15K
R10 N012 0 9.53K
R11 N008 N014 15K
R12 N014 0 4.02K
C4 N019 0 1µ
C5 N005 0 .1µ
XU1 N003 N012 N010 Slave1 N007 N009 N017 N019 N015 0 N005 N005 N018 N016 N011 N006 Slave2 N013 N014 N008 LTC2926
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 200m startup
.lib LTC2926.sub
.backanno
.end
