* Z:\mnt\design.r\spice\examples\2927.asc
R5 N004 N008 16.5K
R6 N008 0 13K
R7 N001 N002 25K
R8 N002 0 10K
V2 N001 0 PWL(0 0 1m 5)
C1 0 N003 0.1µ
R10 N006 0 400K
R11 N007 N006 400K
G1 0 N007 N009 N006 1
V3 N009 0 1
XU1 N001 N002 N004 N008 N003 N005 N006 0 LTC2927
.tran 1 2 0 1m
.lib LTC2927.sub
.backanno
.end
