* Z:\mnt\design.r\spice\examples\2940.asc
R1 N003 0 10.0K
R2 LOAD N003 110K
Rsense IN LOAD 10m pwr=2W
R5 IMON 0 10.0K
R4 PMON 0 49.9K
Vpup N002 0 5
Vin IN 0 6
Iload LOAD 0 PWL(0 0 120m 12)
XU1 OVRPWR N004 PMON PMON IMON 0 0 N003 N001 LOAD IN IN LT2940
R3 N002 OVRPWR 100K
.tran 120m  startup
.step Vin list 6 10 15 30 60
* 60W Load Power Alarm
* 2W
* Scale = 10 Amps/Volt
* Scale = 48 Watts/Volt
.lib LT2940.sub
.backanno
.end
