* Z:\mnt\design.r\spice\examples\2942.asc
Vbatt IN 0 3.7
Rsense IN N002 100m
R1 IN N003 10K
V2 N002 0 PULSE(3.75 3.65 1s 10m 10m 1 2)
XU1 IN 0 N004 N005 N003 N002 N001 LTC2942 B_Reg=60 CD_Reg=32767 EF_Reg=32768 EF_Reg=65535 GH_Reg=0 GH_Reg=0 K_Reg=255 L_Reg=156
.tran 5
.lib LTC2942.sub
.backanno
.end
