* Z:\mnt\design.r\spice\examples\2943.asc
Vbatt N001 0 3.7
Rsense N001 N004 100m
R1 N001 N005 10K
V2 N004 0 PULSE(3.75 3.65 1s 1m 1m 3 6)
XU1 N001 0 N006 N007 N005 N004 N002 N003 LTC2943 B_Reg=36 CD_Reg=32767 EF_Reg=65535 GH_Reg=0 EF_Reg=65535 GH_Reg=0 KL_Reg=65535 MN_Reg=0 QR_Reg=65535 ST_Reg=0
.tran 15
.lib LTC2943.sub
.backanno
.end
