* Z:\mnt\design.r\spice\examples\2952.asc
XU1 N009 N008 N015 N017 N014 N013 N020 N021 0 N019 N004 N007 N003 N001 N002 N006 N018 0 0 N016 LTC2952
R1 OUT N010 1K
R2 OUT N011 1K
R3 OUT N012 1K
R4 OUT N019 100K
C1 N020 0 .016µ
C2 N021 0 .032µ
V1 N002 0 5
V2 N017 0 PWL(0 1 3 1 3.001 0 4 0 4.001 1 4.5 1 4.501 0 5 0 5.001 1 8 1 8.001 0)
V3 N016 0 PWL(0 0 3.1 0 3.101 1 18 1 18.001 0)
V4 N003 0 8
V5 N015 0 PWL(0 0 0.1 0.9 10.2 0.9 10.201 0 10.5 0 10.501 1.5)
C3 N001 0 0.47µ
XU2 OUT N005 MP_01 0 N004 MP_02 MP_03 N001 LT3010
R6 OUT N005 105K
R7 N005 0 100K
C4 OUT 0 2.2µ
R8 N001 N008 1.3Meg
R9 N008 0 100K
D1 N010 N013 D
D2 N011 N014 D
D3 N012 N018 D
R10 OUT N009 365K
R11 N009 0 100K
M§Q1 N002 N006 N001 N001 FDS6875
M§Q2 N003 N007 N001 N001 FDS6875
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20 startup
.lib LT3010.lib
.lib LTC2952.sub
.backanno
.end
