* Z:\mnt\design.r\spice\examples\2965.asc
R1 N003 N005 91K
R2 N002 N003 200K
R3 N005 0 909K
V1 IN 0 PWL(0 0 20u 0 10m 24.5 20m 0)
R4 N001 N004 100K
V2 N001 0 5
XU1 IN N002 N003 N005 0 0 0 N004 LTC2965
.tran 25m startup
.lib LTC2965.sub
.backanno
.end
